.subckt @decoder DUMMY
R1 DUMMY 0 1G
.ends @decoder

.subckt decoder-element SEL ENABLE OUT
B2 OUT 0 V= ( buf( V(ENABLE) ) & V(SEL) >= { Vcenter - Vdelta } & V(SEL) < { Vcenter + Vdelta} )
.param Vdelta=0.5
.param Vcenter=1
.ends decoder-element

.subckt decoder-on OUT
V1 OUT 0 1
.ends decoder-on

.subckt decoder-off OUT
V1 OUT 0 0
.ends decoder-off